US03998834
A mixture of 14.4 parts of N-[4-(ethoxymethyl)-1-(phenylmethyl)-4-piperidinyl]-N-phenylpropanamide and 200 parts of acetic acid is hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is taken up in water, cooled and basified with ammonium hydroxide. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated, yielding N-[4-(ethoxymethyl)-4-piperidinyl]-N-phenylpropanamide as an oily residue.

reactant | N-[4-(ethoxymethyl)-1-(phenylmethyl)-4-piperidinyl]-N-phenylpropanamide | C(C)OCC1(CCN(CC1)CC1=CC=CC=C1)N(C(CC)=O)C1=CC=CC=C1 | C24H32N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[4-(ethoxymethyl)-4-piperidinyl]-N-phenylpropanamide | C(C)OCC1(CCNCC1)N(C(CC)=O)C1=CC=CC=C1 | C17H26N2O2
